US05250517
24 g (1 mol) of sodium hydride were suspended in 100 ml of absolute tetrahydrofuran. A solution of 218.4 g (0.97 mol) of 2-furylmalonic acid diethyl ester in 200 ml of absolute tetrahydrofuran was added dropwise. The temperature rose to 30° (blue suspension). After stirring at 30° for 30 minutes, 340 g (200 ml; 2 mol) of isopropyl iodide were added dropwise within 30 minutes. The reaction mixture was heated to reflux overnight, thereafter evaporated under reduced pressure, and dissolved in ether. After evaporation of the solvent, the remaining oily residue was distilled in a high vacuum, to obtain 240.6 g (92.5%) of 2-furyl-2-isopropylmalonic acid diethyl ester (purity 93.6%) in the form of a yellowish oil, boiling point 85°-88°/13 Pa.

reactant | sodium hydride | 1 mol, 24 g | [H-].[Na+]
reactant | 2-furylmalonic acid diethyl ester | 0.97 mol, 218.4 g | C(C)OC(C(C(=O)OCC)C=1OC=CC1)=O | C11H14O5
reactant | isopropyl iodide | 2 mol, 200 ml, 340 g | C(C)(C)I | C3H7I
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-furyl-2-isopropylmalonic acid diethyl ester | 240.6 g, 92.5% | C(C)OC(C(C(=O)OCC)(C(C)C)C=1OC=CC1)=O | C14H20O5
